US05635505
Ethyl 2-[4-(5-chlorobenzothiazol-2-yl) methyl-3,4-dihydro-3-oxo-2H-1,4-benzoxazin-2-yl]acetate
Ethyl 2-(3,4-dihydro-3-oxo-2H-1,4-benzoxazin-2-yl]acetate (150 mg), 2-bromomethyl-5-chlorobenzothiazole (186 mg) and potassium iodide (13 mg) were dissolved in dimethyl sulfoxide (2 ml). Potassium carbonate (133 mg) was added and the mixture was stirred at room temperature for 15 hours. A saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was distilled away.

reactant | Ethyl 2-(3,4-dihydro-3-oxo-2H-1,4-benzoxazin-2-yl]acetate | 150 mg | O=C1C(OC2=C(N1)C=CC=C2)CC(=O)OCC | C12H13NO4
reactant | 2-bromomethyl-5-chlorobenzothiazole | 186 mg | BrCC=1SC2=C(N1)C=C(C=C2)Cl | C8H5BrClNS
reactant | potassium iodide | 13 mg | [I-].[K+]
reactant | Potassium carbonate | 133 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | Ethyl 2-[4-(5-chlorobenzothiazol-2-yl) methyl-3,4-dihydro-3-oxo-2H-1,4-benzoxazin-2-yl]acetate | ClC=1C=CC2=C(N=C(S2)CN2C(C(OC3=C2C=CC=C3)CC(=O)OCC)=O)C1 | C20H17ClN2O4S
